US08466282B2
N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]quinoline-2-carboxamide 2 TFA salt
A 0.08M solution (1000 μL, 80 μmol) of tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate in DMF and quinoline-2-carboxylic acid (15.2 mg, 88 μmol) were mixed, a 0.32M solution (500 μL, 160 μmol) of chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate and N,N-diisopropylethylamine in DMF was added at room temperature and the mixture was stirred for 16 hr. After completion of the reaction, 2% aqueous sodium hydrogen carbonate solution (1.0 ml) was added, and extracted with ethyl acetate (3.5 ml). The organic layer was separated by upper layer Phase Septube (manufactured by Wako Pure Chemical Industries, Ltd.). The solvent was evaporated under reduced pressure, and the residue was dissolved in DMSO-methanol (1:1) (1 ml), purified by preparative HPLC, and the object fraction was concentrated to give a protected title compound. 1M MSA acetonitrile solution (3 ml) was added to the obtained protected compound, and the mixture was stirred at room temperature for 16 hr. After completion of the reaction, 1M DIEA acetonitrile solution (3.5 ml) was added, and the reaction mixture was directly developed by preparative HPLC to give the object product (12.3 mg).

reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | quinoline-2-carboxylic acid | 88 μmol, 15.2 mg | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | 1.0 ml | C(O)([O-])=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]quinoline-2-carboxamide | CC(CN(C(=O)C1=NC2=CC=CC=C2C=C1)[C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)C | C24H32N4O3
